US07465815B2
3-(4-Bromophenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran
Using 2-(2-hydroxy-1-(4-bromophenyl)ethyl)-3,5,6-trimethylphenol obtained in Reference Example 232, the title compound was synthesized in the same manner as in Reference Example 13. Yield 95%. Melting point: 72-73° C. (methanol).

reactant | 2-(2-hydroxy-1-(4-bromophenyl)ethyl)-3,5,6-trimethylphenol | OCC(C1=CC=C(C=C1)Br)C1=C(C(=C(C=C1C)C)C)O | C17H19BrO2
solvent | methanol | CO | CH4O
product | 3-(4-Bromophenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran | Yield 95% | BrC1=CC=C(C=C1)C1COC2=C1C(=CC(=C2C)C)C | C17H17BrO
